US05576340
2-[2-(4-Hydroxymethylphenoxy)-1-methylethyl]amino-1-(3-chlorophenyl)ethanol 1/6 ethyl acetate (Compound No. 7-2)
0.83 mg of lithium aluminum hydride was slowly added, with stirring, to a solution of 1.95 g of 2-[2-(4-methoxycarbonylphenoxy)-1-methylethyl]amino-1-(3-chlorophenyl)ethanol (prepared as described in Preparation 1) dissolved in 70 ml of tetrahydrofuran, and the resulting mixture was allowed to react at room temperature for 2 hours. At the end of this time, 0.9 ml of water, 0.9 ml of a 15% w/v aqueous solution of sodium hydroxide and 3 ml of water were added, in that order, to the reaction mixture, and the resulting mixture was stirred at room temperature. The reaction mixture was then filtered using a Celite (trade mark) filter aid, and the filtrate was freed from the solvent by distillation under reduced pressure. The resulting residue was purified by column chromatography through silica gel, using a 10:1 by volume mixture of ethyl acetate and ethanol as the eluent, to give 1.5 g of the title compound as a glass-like material, having an Rf=0.55 (thin layer chromatography over silica gel, using a 4:1 by volume mixture of ethyl acetate and ethanol as the developing solvent).

reactant | lithium aluminum hydride | 0.83 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-[2-(4-methoxycarbonylphenoxy)-1-methylethyl]amino-1-(3-chlorophenyl)ethanol | 1.95 g | COC(=O)C1=CC=C(OCC(C)NCC(O)C2=CC(=CC=C2)Cl)C=C1 | C19H22ClNO4
reactant | water | 0.9 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 3 ml | O | H2O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 2-[2-(4-Hydroxymethylphenoxy)-1-methylethyl]amino-1-(3-chlorophenyl)ethanol | 1.5 g | OCC1=CC=C(OCC(C)NCC(O)C2=CC(=CC=C2)Cl)C=C1 | C18H22ClNO3
